US03963718
4.3 parts of 3,4-dichloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol are added portionwise to 16.2 parts of sulfuric acid solution 80% while stirring and cooling. Upon completion, the mixture is stirred for 2 hr. 30 min. at room temperature. The reaction mixture is poured onto ice-water, alkalized with concentrated sodium hydroxide solution and the product in base form is extracted with methylene chloride. The organic layer is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanol, yielding 5-(3,4-dichlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride; m.p. 298.4°C (dec.).

reactant | 3,4-dichloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol | ClC=1C=C(C(CNC=2NCCN2)O)C=CC1Cl | C11H13Cl2N3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-(3,4-dichlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1CN=C2N1CCN2 | InChI=1S/C11H11Cl2N3.ClH/c12-8-2-1-7(5-9(8)13)10-6-15-11-14-3-4-16(10)11;/h1-2,5,10H,3-4,6H2,(H,14,15);1H
